US08623889B2
Step 2: methyl 3-fluoro-5-(3-((1S,2S)-2-fluorocyclopropanecarboxamido)isoquinolin-7-yl)-4-methylpicolinate
A flask charged with (1S,2S)—N-(7-(6-chloro-5-fluoro-4-methylpyridin-3-yl)-isoquinolin-3-yl)-2-fluoro-cyclopropanecarboxamide (261 mg; 0.5237 mmol), palladium(II) acetate (13.7 mg; 0.0610 mmol), 1,3-bis(dicyclohexylphosphino)propane bis(tetrafluoroborate) (66.8 mg; 0.106 mmol), potassium carbonate (136.1 mg; 0.9749 mmol), N,N-dimethylformamide (3.0 mL; 38 mmol) and methanol (0.75 mL; 18 mmol) was evacuated and backfilled with CO gas 3 times, and then stirred under a balloon of CO gas at 100° C. for 20 hours. To the reaction mixture was then added triethylamine (0.20 mL; 1.4 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (64.9 mg; 0.0795 mmol). The reaction vessel was re-purged with CO gas and stirred at 100° C. for an additional 3 hours. The reaction mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate, filtered, and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (24 g silica, solvent gradient: 0-10% methanol in dichloromethane) to yield 134.9 mg (70% pure, 45% yield) of the title compound. LCMS (ESI): M+H=398.2.

reactant | (1S,2S)—N-(7-(6-chloro-5-fluoro-4-methylpyridin-3-yl)-isoquinolin-3-yl)-2-fluoro-cyclopropanecarboxamide | 0.5237 mmol, 261 mg | ClC1=C(C(=C(C=N1)C1=CC=C2C=C(N=CC2=C1)NC(=O)[C@H]1[C@H](C1)F)C)F | C19H14ClF2N3O
reactant | 1,3-bis(dicyclohexylphosphino)propane bis(tetrafluoroborate) | 0.106 mmol, 66.8 mg | F[B-](F)(F)F.F[B-](F)(F)F.C1(CCCCC1)P(CCCP(C1CCCCC1)C1CCCCC1)C1CCCCC1
reactant | potassium carbonate | 0.9749 mmol, 136.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 38 mmol, 3.0 mL | CN(C=O)C | C3H7NO
reactant | methanol | 18 mmol, 0.75 mL | CO | CH4O
reactant | triethylamine | 1.4 mmol, 0.20 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium(II) acetate | 0.0610 mmol, 13.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 3-fluoro-5-(3-((1S,2S)-2-fluorocyclopropanecarboxamido)isoquinolin-7-yl)-4-methylpicolinate | 45% yield | FC=1C(=NC=C(C1C)C1=CC=C2C=C(N=CC2=C1)NC(=O)[C@H]1[C@H](C1)F)C(=O)OC | C21H17F2N3O3
